US07592347B2
1-Cyclobutyl-4-[1-(5-cyanopyridin-2-yl)-piperidine-4-carbonyl]-[1,4]-diazepane hydrochloride (E37)
1-[1-(5-Cyanopyridin-2-yl)-piperidine-4-carbonyl]-[1,4]-diazepane hydrochloride (D14) (0.30 g) was dissolved in DCM (10 ml) and TEA (0.4 ml) was added followed by cyclobutanone (0.14 ml). The reaction was stirred for 5 min under argon and then sodium triacetoxyborohydride (0.41 g) was added and the reaction stirred at rt for 4 h. The reaction mixture was washed with saturated aqueous potassium carbonate (2×30 ml), saturated sodium hydrogen carbonate (2×50 ml) and brine (50 ml). The organic layer was then dried (MgSO4) and evaporated to a crude which was purified by column chromatography [silica gel, step gradient 0-10% MeOH (containing 10% 0.880 ammonia solution) in DCM] to give the free base product which was converted to the HCl salt by redissolving in DCM and then treating with excess hydrogen chloride (1M solution in diethyl ether) and concentrating to yield the title compound (E37) as a pale yellow solid (0.047 g). MS electrospray (+ve) 368 (MH+). 1H NMR δ [DMSO-d6]: 10.80-10.50 (1H, m), 8.47 (1H, s), 7.83 (1H, d, J=8.8 Hz), 6.95 (2H, d, J=8.8 Hz), 4.44 (2H, m), 4.05 (1H, m), 3.85-3.28 (6H, m), 3.07-2.72 (5H, m), 2.41-2.01 (6H, m), 1.82-1.41 (6H, m).

reactant | 1-[1-(5-Cyanopyridin-2-yl)-piperidine-4-carbonyl]-[1,4]-diazepane hydrochloride | 0.30 g | Cl.C(#N)C=1C=CC(=NC1)N1CCC(CC1)C(=O)N1CCNCCC1
reactant | cyclobutanone | 0.14 ml | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.41 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | Cl | ClH
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyclobutyl-4-[1-(5-cyanopyridin-2-yl)-piperidine-4-carbonyl]-[1,4]-diazepane hydrochloride | 0.047 g | Cl.C1(CCC1)N1CCN(CCC1)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C#N | InChI=1S/C21H29N5O.ClH/c22-15-17-5-6-20(23-16-17)25-11-7-18(8-12-25)21(27)26-10-2-9-24(13-14-26)19-3-1-4-19;/h5-6,16,18-19H,1-4,7-14H2;1H
